US04818761
(a) Preparation of N-(3-fluorophenyl)-o-phenylenediamine
o-nitroaniline (2.8 g, 20.3 mmol), potassium carbonate (0.9 g, 6.5 mmol), cuprous iodide (0.78 g, 4.1 mmol) and 1-bromo-3-fluorobenzene (15.4 g, 88.0 mmol) were refluxed for 24 hours at 165° C. The reactant was subjected to steam distillation and the remainder was extracted with ethyl acetate. The ethyl acetate layer was washed, dried and concentrated in vacuo. The obtained residue was refined by a silica gel column chromatography (CHCl3). The eluent (1.2 g, 5.2 mmol) was refluxed for 1 hour together with powdered iron (2.9 g, 52 mmol), ethanol (4.2 ml), water (1 ml) and concd. hydrochloric acid (0.05 ml, 50 mmol), then the resultant was concentrated in vacuo.

reactant | o-nitroaniline | 20.3 mmol, 2.8 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | potassium carbonate | 6.5 mmol, 0.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-fluorobenzene | 88.0 mmol, 15.4 g | BrC1=CC(=CC=C1)F | C6H4BrF
reactant | hydrochloric acid | 50 mmol, 0.05 ml | Cl | ClH
catalyst | iron | 52 mmol, 2.9 g | [Fe] | Fe
solvent | water | 1 ml | O | H2O
solvent | ethanol | 4.2 ml | C(C)O | C2H6O
product | N-(3-fluorophenyl)-o-phenylenediamine | FC=1C=C(C=CC1)NC1=C(C=CC=C1)N | C12H11FN2
